US04431589
2-Methyl-4-[4-fluoro-2-nitroanilino]-1,2,3-triazole-5-carbonitrile.
To a solution of 4-amino-2-methyl-1,2,3-triazole-5-carbonitrile (1.7 g) in tetrahydrofuran (35 ml) under nitrogen, was added sodium hydride (1.0 g; 50% oil dispersion) at room temperature. After 15 minutes, 2,5-difluoronitrobenzene (2.22 g) was added to the mixture, which was stirred overnight under nitrogen. The deep red solution was then quenched in ice/water/HCl and filtered to give an orange solid. The solid was chromatographed on a magnesium silicate column using dichloromethane; the purified product recrystallised from ethyl acetate-ethanol to give an orange crystalline solid, melting point 159°-160° C.

reactant | 4-amino-2-methyl-1,2,3-triazole-5-carbonitrile | 1.7 g | NC1=NN(N=C1C#N)C | C4H5N5
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | 2,5-difluoronitrobenzene | 2.22 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 2-Methyl-4-[4-fluoro-2-nitroanilino]-1,2,3-triazole-5-carbonitrile | CN1N=C(C(=N1)NC1=C(C=C(C=C1)F)[N+](=O)[O-])C#N | C10H7FN6O2
